US07700641B2
B. Synthesis 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 15B, and making non-critical variations to replace 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one with 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained: MS (ES+) m/z 348 (M+1).

reactant | 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H20BrNO3
reactant | 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=CC(=C(C=C1F)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H19ClFNO3
product | 3-(4-chloro-5-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=CC(=C(C=C1F)C1C(N(C2=CC=CC=C12)CCCCC)=O)O | C19H19ClFNO2
